US07691879B2
To a solution of 2-allyl-6-(difluoromethoxy)-4-(3-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile in 10 mL dioxane were added triethylamine (0.363 mL) and formic acid (0.079 mL). The solution was sparged with argon for 10 min, then Pd(PPh3)4 was added, and the reaction was heated to 100 C for 2 h. The reaction was concentrated to dryness, then partitioned between CH2Cl2 and and 50% brine. The organic solution was dried (MgSO4) and concentrated to dry solid. Flash chromatography (5-45% EA/hex, 1% MeOH, 40 g silica) provided 110 mg of 6-(difluoromethoxy)-4-(3-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile. The material was approximately 80% pure and was used without further purification.

reactant | 2-allyl-6-(difluoromethoxy)-4-(3-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile | C(C=C)N1C(C2=CC=C(C=C2C(=C1C#N)C1=CC(=CC=C1)F)OC(F)F)=O | C20H13F3N2O2
reactant | triethylamine | 0.363 mL | C(C)N(CC)CC | C6H15N
reactant | formic acid | 0.079 mL | C(=O)O | CH2O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-(difluoromethoxy)-4-(3-fluorophenyl)-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile | 110 mg | FC(OC=1C=C2C(=C(NC(C2=CC1)=O)C#N)C1=CC(=CC=C1)F)F | C17H9F3N2O2
